US06828460B2
(±)-1-{3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexyl}piperazine
(±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanone (80 mg) and piperazine (24 mg) were dissolved in dichloroethane (5 ml) and stirred at ambient temperature for 1 hr under argon. Tetramethylammonium triacetoxyborohydride (79 mg) was added and stirring continued under argon. After 16 hr, additional portions of piperazine (24 mg) and tetramethylammonium triacetoxyborohydride (79 mg) were added and stirring continued. After a further 6 hr, glacial acetic acid was added dropwise until a solution was obtained, and stirring continued at ambient temperature. After a further 16 hr, the reaction mixture was partitioned between sodium hydrogen carbonate (20 ml of a saturated solution) and ethyl acetate. The aqueous layer was extracted with ethyl acetate (3×20 ml), and the combined organic extracts were dried over magnesium sulfate and evaporated in vacuo. The crude residue was purified by flash column chromatography chromatography (SiO2, dichloromethane/methanol, 9:1 v/v) to furnish the title compound as an off white solid (52 mg, 53%) and mixture of diastereoisomers; m/z (ES+) 365 (M+H)+.

reactant | (±)-3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexanone | 80 mg | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)=O | C16H22O5
reactant | piperazine | 24 mg | N1CCNCC1 | C4H10N2
reactant | Tetramethylammonium triacetoxyborohydride | 79 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | piperazine | 24 mg | N1CCNCC1 | C4H10N2
reactant | tetramethylammonium triacetoxyborohydride | 79 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.C[N+](C)(C)C
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | dichloroethane | 5 ml | ClC(C)Cl | C2H4Cl2
product | (±)-1-{3-[2,4-Bis(methoxymethoxy)phenyl]cyclohexyl}piperazine | COCOC1=C(C=CC(=C1)OCOC)C1CC(CCC1)N1CCNCC1 | C20H32N2O4
